US06492364B1
Isatoic anhydride (4.5 g), 3-aminopropanol (2.66 ml) were added to tetrahydrofuran (70 ml), and the mixture was stirred at room temperature for 4 hours. Tetrahydrofuran was removed and the residue was purified by silica gel column chromatography (ethyl acetate) to obtain 4.7 g of N-(4-hydroxybutyl)(2-aminophenyl)formamide. Yield: 82%.

reactant | Isatoic anhydride | 4.5 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | 3-aminopropanol | 2.66 ml | NCCCO | C3H9NO
reactant | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | N-(4-hydroxybutyl)(2-aminophenyl)formamide | 4.7 g, Yield: 82% | OCCCCN(C=O)C1=C(C=CC=C1)N | C11H16N2O2
